US06242600B1
(R,S)-[4-[2-(4-Fluorobenzoylamino)-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid
To a mixture of (R,S)-[4-[2-amino-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxy-carbonylmethyl-2-oxopiperazin-1-yl]acetic acid trifluoroacetic acid salt (0.25 g) produced in Working Example 21, an aqueous solution of sodium hydrogen carbonate (0.15 g), water (2.5 ml) and 1,4-dioxane (2.5 ml) was added 4-fluorobenzoyl chloride (0.051 ml) and the solution was stirred for 1 hour at room temperature. The pH of the reaction solution was adjusted to 3 with 1N hydrochloric acid and the solution was concentrated under reduced pressure. The concentrate was purified by means of CHP-20 column chromatography (eluent:H2O→15% acetonitrile aqueous solution→20% acetonitrile aqueous solution→25% acetonitrile aqueous solution→30% acetonitrile aqueous solution). The objected fraction was concentrated and subjected to lyophilization to give the titled compound (0.10 g) as a white amorphous powdery product.

reactant | (R,S)-[4-[2-amino-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxy-carbonylmethyl-2-oxopiperazin-1-yl]acetic acid trifluoroacetic acid salt | 0.25 g | FC(C(=O)O)(F)F.N[C@H](C(=O)N1[C@@](C(N(CC1)CC(=O)O)=O)(OC)C=C=O)CC(N1CCN(CC1)C1=CC=NC=C1)=O
reactant | sodium hydrogen carbonate | 0.15 g | C(O)([O-])=O.[Na+]
reactant | 4-fluorobenzoyl chloride | 0.051 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.5 ml | O | H2O
product | (R,S)-[4-[2-(4-Fluorobenzoylamino)-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid | 0.10 g | FC1=CC=C(C(=O)N[C@H](C(=O)N2[C@@H](C(N(CC2)CC(=O)O)=O)CC(=O)OC)CC(N2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | C29H33FN6O8
